US08034812B2
Production of 3-methoxy-1-methyl-1H-pyrazole-5-carboxylic acid
To a solution of methyl 3-methoxy-1-methyl-1H-pyrazole-5-carboxylate (2.01 g, 11.8 mmol) in methanol (15 mL) was added 8N aqueous sodium hydroxide solution (3.00 mL), and the mixture was stirred at room temperature for 18 hr. 6N Hydrochloric acid (4.00 mL) was added to the mixture, and the mixture was concentrated under reduced pressure. Water was added to the residue, and the precipitate was collected by filtration, washed with water and air-dried. The precipitate was suspended in diisopropyl ether, and the mixture was stirred at 80° C. for 15 min. After allowing to cool to room temperature, the precipitate was collected by filtration, washed with diisopropyl ether, and dried under reduced pressure to give the title compound (746 mg, yield 40%) as a white solid.

reactant | methyl 3-methoxy-1-methyl-1H-pyrazole-5-carboxylate | 11.8 mmol, 2.01 g | COC1=NN(C(=C1)C(=O)OC)C | C7H10N2O3
reactant | sodium hydroxide | 8N, 3.00 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 6N, 4.00 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 3-methoxy-1-methyl-1H-pyrazole-5-carboxylic acid | 746 mg, yield 40% | COC1=NN(C(=C1)C(=O)O)C | C6H8N2O3
